US07566699B2
To a mixture of 3-[2-(4-aminophenyl)ethyl-4-hydroxybenzofuran (0.3 g) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (0.65 g) in dichloromethane (5 mL) was added borontrifluoride-diethyl ether complex (0.23 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-1/2-1/5) to give 3-[2-(4-aminophenyl)-ethyl]-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)benzofuran (0.36 g). To a solution of the obtained 3-[2-(4-aminophenyl)ethyl]-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)benzofuran (50 mg) in tetrahydrofuran (2 mL) was added trimethylsilyl isocyanate (0.014 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added water (0.3 mL), and the mixture was stirred at 50° C. for 2 hours. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium hydrogen carbonate solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by VARIAN BOND ELUT-SCX (eluent: methanol) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-ureidophenyl)ethyl]-benzofuran (20 mg). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.02 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. To the residue was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichlorometane/methanol=5/1) to give the title compound (4 mg).

reactant | 3-[2-(4-aminophenyl)ethyl]-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)benzofuran | 50 mg | NC1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O | C30H33NO11
reactant | trimethylsilyl isocyanate | 0.014 mL | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | water | 0.3 mL | O | H2O
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-ureidophenyl)ethyl]-benzofuran | 20 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)NC(=O)N | C31H34N2O12
